US04906643
A mixture of 4.6 parts of cis-4-amino-N-[1-(4-aminobutyl)-3-methoxy-4-piperidinyl]-5-chloro-2-methoxybenzamide, 1.4 parts of 2-chloropyrimidine and a few drops of N,N-dimethylacetamide was stirred overnight at 80° C. The reaction mixture was taken up in a mixture of dichloromethane, water and hydrochloric acid. The separated aqueous layer was treated with sodium carbonate and the product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane, methanol and methanol, saturated with ammonia, (96:3:1 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 1.34 parts (24.1%) of cis-4-amino-5-chloro-2-methoxy-N-[3-methoxy-1-[4-(2-pyrimidinylamino)butyl]-4-piperidinyl]benzamide; mp. 114.8° C. (compound 29).

reactant | cis-4-amino-N-[1-(4-aminobutyl)-3-methoxy-4-piperidinyl]-5-chloro-2-methoxybenzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCCCN)OC)C=C1Cl)OC | C18H29ClN4O3
reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
reactant | hydrochloric acid | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | N,N-dimethylacetamide | a few drops | CN(C(C)=O)C | C4H9NO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | cis-4-amino-5-chloro-2-methoxy-N-[3-methoxy-1-[4-(2-pyrimidinylamino)butyl]-4-piperidinyl]benzamide | 24.1% | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCCCNC2=NC=CC=N2)OC)C=C1Cl)OC | C22H31ClN6O3
